US07700633B2
To a stirring solution of 2-oxopropionic acid methyl ester (1.0 g, 0.903 mmol), allyl bromide (1.8 mL, 21.32 mmol) in MeOH/HCl (1:4, 10 mL), is added indium powder (1.12 g, 9.76 mmol). The mixture is stirred for 3 days at room temperature. The mixture is quenched with NaHCO3 and extracted with DCM (3×50 mL). The organic layers are washed with water (2×50 mL) and brine. The combined organic layers are dried with MgSO4 and concentrated to afford 2-hydroxy-2-methylpent-4-enoic acid methyl ester: (M+H)+=145.

reactant | 2-oxopropionic acid methyl ester | 0.903 mmol, 1.0 g | COC(C(C)=O)=O | C4H6O3
reactant | allyl bromide | 21.32 mmol, 1.8 mL | C(C=C)Br | C3H5Br
reactant | indium | 9.76 mmol, 1.12 g | [In] | In
reactant | MeOH HCl | 10 mL | CO.Cl
product | 2-hydroxy-2-methylpent-4-enoic acid methyl ester | COC(C(CC=C)(C)O)=O | C7H12O3
